US09370515B2
Preparation of 6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine
To a solution of 6-chloro-4,5-dimethylpyridazin-3-amine (2.00 g, 12.7 mmol, 1.0 equiv) in isopropanol (40 mL) was added bromoacetaldehyde diethyl acetal (5.23 mL, 34.8 mmol, 2.7 equiv), and hydrobromic acid (2.00 mL) and heated to reflux for 2 h. The reaction mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. Purification by column chromatography using 20% ethyl acetate in hexanes elution gave 2.07 g of the white solid, 90%.

reactant | 6-chloro-4,5-dimethylpyridazin-3-amine | 12.7 mmol, 2.00 g, 1.0 equiv | ClC1=C(C(=C(N=N1)N)C)C | C6H8ClN3
reactant | bromoacetaldehyde diethyl acetal | 34.8 mmol, 5.23 mL, 2.7 equiv | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | 2.00 mL | Br | BrH
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine | 2.07 g | ClC=1C(=C(C=2N(N1)C=CN2)C)C | C8H8ClN3
